US06313119B1
b) (2S)-2-(Quinoline-8-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid tert-butyl ester
65 mg (0.12 mmol) of (2S)-3-(4-(2-methoxycarbonyl-ethyl)-benzoylamino)-2-(quinoline-8-sulfonylamino)-propionic acid tert-butyl ester was dissolved in 1 ml of dimethylformamide and 59 mg (0.6 mmol) of 2-amino-1,4,5,6-tetrahydropyrimidine was added. The reaction was stirred at room temperature for 20 hours. The solvent was removed in vacuo and the residue was chromatographed on silica gel eluting with dichloromethane/methanol (1/1), followed by dichloromethane/methanol/acetic acid/water (85/15/1.5/1.5). Yield 72 mg. MS (ES+): m/e=609.3 (M+H+).

reactant | (2S)-3-(4-(2-methoxycarbonyl-ethyl)-benzoylamino)-2-(quinoline-8-sulfonylamino)-propionic acid tert-butyl ester | 0.12 mmol, 65 mg | C(C)(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(=O)OC)=O)NS(=O)(=O)C=1C=CC=C2C=CC=NC12)=O | C27H31N3O7S
reactant | 2-amino-1,4,5,6-tetrahydropyrimidine | 0.6 mmol, 59 mg | NC=1NCCCN1 | C4H9N3
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (2S)-2-(Quinoline-8-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O)NS(=O)(=O)C=1C=CC=C2C=CC=NC12)=O | C30H36N6O6S
